US06958391B2
Production of N2-isobutyryl-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyguanosine
N2-isobutyryl-5′-O-(tert-butyldimethylsilyl)-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyguanosine (25 g) was dissolved in 200 ml of dry THF. A THF solution (40 ml) of tetrabutylammonium fluoride was added to the resultant solution and 100 ml of dry THF was further added, followed by stirring at room temperature. After 8 hours, extraction using chloroform was carried out, and the extract was washed by a saturated solution of sodium chloride and dried with anhydrous magnesium sulfate. The extract was then concentrated and purified by column chromatography (ethyl acetate/hexane/methanol) to obtain 12.9 g of the titled compound as a white powder (yield: 60%).

reactant | N2-isobutyryl-5′-O-(tert-butyldimethylsilyl)-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyguanosine | 25 g | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3C[C@H](OC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N1)=O | C41H51N5O7Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N2-isobutyryl-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyguanosine | 12.9 g, yield: 60% | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3C[C@H](OC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)[C@@H](CO)O3)C2N1)=O | C35H37N5O7
